US05547967
3-(3-[N-(2-(4-Aminophenyl)-ethyl)-N-methylamino]-propyloxy)-5-phenyl-1,2,4-thiadiazole.
2.1 g of 3-(3-[N-(2-(4-nitrophenyl)-ethyl)-N-methylamino]-propyloxy)-5-phenyl-1,2,4-thiadiazole (for) preparation, see Example 8)), were dissolved in a mixture of 75 ml ethanol and 75 ml methanol and reacted with a catalytic quantity of Raney nickel. The reaction mixture was then hydrogenated for 2.5 hours at room temperature with hydrogen at a hydrogen pressure of 5 bars. The catalyst was filtered off and the filtrate concentrated to dryness. The oily crude title compound obtained was purified by medium-pressure chromatography over fine-grained silica gel (Lichroprep Si 60®) using 95:5 ethyl acetate/methanol as the eluent. 1.1 g of the title compound were obtained as an oil.

reactant | 3-(3-[N-(2-(4-nitrophenyl)-ethyl)-N-methylamino]-propyloxy)-5-phenyl-1,2,4-thiadiazole | 2.1 g | [N+](=O)([O-])C1=CC=C(C=C1)CCN(C)CCCOC1=NSC(=N1)C1=CC=CC=C1 | C20H22N4O3S
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | methanol | 75 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 3-(3-[N-(2-(4-Aminophenyl)-ethyl)-N-methylamino]-propyloxy)-5-phenyl-1,2,4-thiadiazole | 1.1 g | NC1=CC=C(C=C1)CCN(C)CCCOC1=NSC(=N1)C1=CC=CC=C1 | C20H24N4OS
